US08003653B2
tert-Butyl (1S,2S)-1-benzyl-2-hydroxy-2-[(4S)-2 -isopropyl-1-(1-methylbutyl)-5-oxoimidazolidin-4-yl]ethylcarbamate
To a solution of (2S,3R,4S)-2-amino-4-[(tert-butoxycarbonyl)amino]-3-hydroxy-N-(1-methylbutyl)-5-phenylpentanamide (46 mg, 0.117 mmol) in MeOH (500 mL) was added isobutylaldehyde (100 mL), a small amount of p-toluene sulfonic acid, and Na2SO4 (10 mg). The mixture was capped and heated to 65° C. overnight. The reaction was filtered and the resulting filtrate purified by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions separately afforded the earlier and later eluting diastereomer products as the trifluoroacetate salts. Earlier eluting diastereomer: 1H NMR (400 MHz, CD3OD) δ 7.29-7.25 (m, 4H), 7.19-7.18 (m, 1H), 4.23 (br s, 1H), 4.05-3.88 (m, 2H), 3.75-3.63 (m, 1H), 3.15-3.05 (m, 1H), 2.80-2.74 (m, 1H), 2.33-2.27 (m, 1H), 1.98 -1.89 (m, 1H), 1.76-1.70 (m, 1H), 1.60-1.51 (m, 1H), 1.48-1.24 (m, 11H), 1.22-1.20 (m, 2H), 1.13 -1.08 (m, 4H), 0.99-0.87 (m, 6H); HRMS (FT-ICR) C25H41N3O4+H=448.3195; calculated 448.3170; Later eluting diastereomer: 1H NMR (400 MHz, CD3OD) δ 7.28-7.25 (m, 4H), 7.19-7.18 (m, 1H), 4.26-4.24 (m, 1H), 4.08-3.99 (m, 2H), 3.77-3.70 (m, 1H), 3.10-3.07 (m, 1H), 2.83 -2.77 (m, 1H), 2.38-2.37 (m, 1H), 1.85-1.77 (m, 2H), 1.62-1.56 (m, 1H), 1.42-1.27 (m, 11H), 1.24 (m, 3H), 1.11 (t, J=5.6 Hz, 3H), 1.02 (d, J=6.8 Hz, 3H), 0.99-0.93 (m, 3H); HRMS (FT-ICR) C25H41N3O4+H=448.3168; calculated 448.3170.

reactant | (2S,3R,4S)-2-amino-4-[(tert-butoxycarbonyl)amino]-3-hydroxy-N-(1-methylbutyl)-5-phenylpentanamide | 0.117 mmol, 46 mg | N[C@H](C(=O)NC(CCC)C)[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O | C21H35N3O4
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Na2SO4 | 10 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | MeOH | 500 mL | CO | CH4O
product | tert-Butyl (1S,2S)-1-benzyl-2-hydroxy-2-[(4S)-2 -isopropyl-1-(1-methylbutyl)-5-oxoimidazolidin-4-yl]ethylcarbamate | C(C1=CC=CC=C1)[C@@H]([C@@H]([C@@H]1NC(N(C1=O)C(CCC)C)C(C)C)O)NC(OC(C)(C)C)=O | C25H41N3O4
